US06573293B2
A suspension of 3 g 5-chlorosulfonyl-2-oxindole, 1.15 g isopropylamine and 1.2 mL of pyridine in 50 mL of dichloromethane was stirred at room temperature for 4 hours during which time a white solid formed. The solid was collected by vacuum filtration, slurry-washed with hot ethanol, cooled, collected by vacuum filtration and dried under vacuum at 40° C. overnight to give 1.5 g (45%) of 5-isopropylaminosulfonyl-2-oxindole.

reactant | 5-chlorosulfonyl-2-oxindole | 3 g | ClS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H6ClNO3S
reactant | isopropylamine | 1.15 g | C(C)(C)N | C3H9N
reactant | pyridine | 1.2 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-isopropylaminosulfonyl-2-oxindole | 1.5 g, 45% | C(C)(C)NS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C11H14N2O3S
